US05013759
Specifically, acetic anhydride (120 mL) was added to 30.0 g (165 mmol) homovanillic acid and the mixture was allowed to reflux for 6 hours. The solvent was evaporated, leaving an oil which was poured into 1L H2O and allowed to stir overnight. The solid was collected and dried in vacuo to give 33.1 g of 4-acetoxy-3-methoxyphenylacetic acid.

reactant | acetic anhydride | 120 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | homovanillic acid | 165 mmol, 30.0 g | C(CC1=CC(OC)=C(O)C=C1)(=O)O | C9H10O4
solvent | H2O | O | H2O
product | 4-acetoxy-3-methoxyphenylacetic acid | 33.1 g | C(C)(=O)OC1=C(C=C(C=C1)CC(=O)O)OC | C11H12O5
